US05665748
To a solution of 5-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propyl]-2,4-oxazolidinedione (0.2 g) in tetrahydrofuran (THF) (5 ml) - ethanol (5 ml) was added sodium borohydride (0.03 g). The mixture was stirred for one hour at room temperature. To the reaction mixture were added 2N HCl and water, followed by extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), then the solvent was distilled off. The oily residue was subjected to a silica gel column chromatography. From the reactions eluted with chloroform-methanol (50:1, v/v) was obtained 5-[3-[4-[2-hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-phenyl]propyl]-2,4-oxazolidinedione (0.16 g, 80%). Recrystallization from dichloromethane--isopropyl ether gave colorless needles, m.p.146°-147° C.

reactant | 5-[3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)-2-oxoethoxy]phenyl]propyl]-2,4-oxazolidinedione | 0.2 g | CC1=C(N=C(O1)C1=CC=CC=C1)C(COC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O)=O | C24H22N2O6
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.03 g | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-[3-[4-[2-hydroxy-2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-phenyl]propyl]-2,4-oxazolidinedione | 0.16 g, 80% | OC(COC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O)C=1N=C(OC1C)C1=CC=CC=C1 | C24H24N2O6
